US07452992B2
To a solution of tert-butyl 4-{[tert-butyl(dimethyl)silyl]oxy}-2-hydroxy-2-phenylbutyl(2-hydroxyethyl)carbamate (770 mg, 1.7 mmol) and triphenylphosphine (551 mg, 2.1 mmol) in 8 mL toluene was added diethyl azodicarboxylate (0.96 mL of a 40% solution in toluene, 2.1 mmol) and the reaction was stirred for 24 h. After evaporation, the residue was chromatographed (10% EtOAc/hex) to afford tert-butyl 2-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-2-phenylmorpholine-4-carboxylate as an oil, which was used without further purification. ESI-MS 422 (M+H).

reactant | tert-butyl 4-{[tert-butyl(dimethyl)silyl]oxy}-2-hydroxy-2-phenylbutyl(2-hydroxyethyl)carbamate | 1.7 mmol, 770 mg | [Si](C)(C)(C(C)(C)C)OCCC(CN(C(OC(C)(C)C)=O)CCO)(C1=CC=CC=C1)O | C23H41NO5Si
reactant | triphenylphosphine | 2.1 mmol, 551 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-2-phenylmorpholine-4-carboxylate | [Si](C)(C)(C(C)(C)C)OCCC1(CN(CCO1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C23H39NO4Si
